US09119868B2
Step 6: 6-(N-(4-Bromo-3-(2-hydroxyethyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide
To a solution of 6-(N-(4-amino-3-(2-hydroxyethyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (250 mg, 0.465 mmol) in MeCN (1 mL) maintained at 0° C. was added sodium nitrite (80 mg, 1.16 mmol) dissolved in water (0.50 mL). followed by 48% aqueous HBr (0.25 mL). The resulting mixture was treated with copper(I) bromide (133 mg, 0.930 mmol) in 48% aqueous HBr (0.30 mL). After stirring at 60° C. for 1 hour the reaction mixture was cooled to RT, diluted with water and extracted with EtOAc. The organic solution was washed with water, dried over sodium sulfate, and concentrated to dryness at reduced pressure. The crude product was purified by flash chromatography (silica gel, hexane/EtOAc) to afford the title compound in 65% yield. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.36-8.51 (m, 1H) 8.05 (s, 1H) 7.92 (dd, J=8.89, 5.37 Hz, 2H) 7.49-7.62 (m, 1H) 7.31-7.49 (m, 3H) 7.09-7.26 (m, 2H) 4.69 (t, J=5.28 Hz, 1H) 3.46-3.60 (m, 2H) 3.30-3.40 (m, 3H) 2.72-2.87 (m, 5H) 2.04-2.22 (m, 1H) 0.70-1.06 (m, 3H) 0.41 (br. s., 1H).). LCMS (m/z, ES+)=601,603 (M+H+).

reactant | 6-(N-(4-amino-3-(2-hydroxyethyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.465 mmol, 250 mg | NC1=C(C=C(C=C1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1)CCO | C28H28FN3O5S
reactant | sodium nitrite | 1.16 mmol, 80 mg | N(=O)[O-].[Na+]
reactant | HBr | 0.30 mL | Br | BrH
reactant | HBr | 0.25 mL | Br | BrH
solvent | MeCN | 1 mL | CC#N | C2H3N
solvent | water | 0.50 mL | O | H2O
catalyst | copper(I) bromide | 0.930 mmol, 133 mg | [Cu]Br
product | 6-(N-(4-Bromo-3-(2-hydroxyethyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 65% yield | BrC1=C(C=C(C=C1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1)CCO | C28H26BrFN2O5S
